US06541638B2
Under argon 742.7 mg (32.4 mmol, 1.5 eq) lithium borhydride in 35 ml THF were added dropwise to 8 g (21.6 mmol) 4-[[(Benzyloxycarbonyl-methyl-amino)-acetyl]-methyl-amino]-benzoic acid methyl ester in 100 ml THF at RT. The suspension was stirred at RT over night, heated to 50° C. for 3.25 h, recooled to RT and 21 ml MeOH were added slowly. The solution was added to ice water, extracted with ether (3×), the combined organic layers were washed with water, dried over MgSO4, filtered and evaporated. The crude product was purified by flash chromatography on silica gel with a gradient of CH2Cl2/MeOH (100:0-99.9:0.1) yielding 3.9 g (52%) {[(4-Hydroxymethyl-phenyl)-methyl-carbamoyl]-methyl}-methyl-carbamic acid benzyl ester as yellow oil (Rf 0.4 CH2Cl2:MeOH 9:1), MS: 343 (MH+).

reactant | 4-[[(Benzyloxycarbonyl-methyl-amino)-acetyl]-methyl-amino]-benzoic acid methyl ester | 21.6 mmol, 8 g | COC(C1=CC=C(C=C1)N(C)C(CN(C)C(=O)OCC1=CC=CC=C1)=O)=O | C20H22N2O5
reactant | MeOH | 21 ml | CO | CH4O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | {[(4-Hydroxymethyl-phenyl)-methyl-carbamoyl]-methyl}-methyl-carbamic acid benzyl ester | 3.9 g, 52% | C(C1=CC=CC=C1)OC(N(C)CC(N(C)C1=CC=C(C=C1)CO)=O)=O | C19H22N2O4
